US03962259
A solution of 5.8 g. of 1'-benzyl-1,3-dihydrospiro[isobenzofuran-1,4'-piperidine]-3-one, 40 ml. of benzene, and 2.5 ml. of ethyl chloroformate is heated under reflux for 18 hours and concentrated to a solid. Recrystallization from benzene-cyclohexane provides colorless crystals, m.p. 150°-151°, of 1,3-dihydro-1'-ethoxycarbonylspiro[isobenzofuran-1,4'-piperidine]-3-one. Reduction with lithium aluminum hydride by the method described in Example 16b provides 4-hydroxy-4-(α-hydroxy-2-tolyl)-1-methylpiperidine, m.p. 118°-119°.

reactant | 1'-benzyl-1,3-dihydrospiro[isobenzofuran-1,4'-piperidine]-3-one | C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1=CC=CC=C12)=O | C19H19NO2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | 1,3-dihydro-1'-ethoxycarbonylspiro[isobenzofuran-1,4'-piperidine]-3-one | C(C)OC(=O)N1CCC2(CC1)OC(C1=CC=CC=C12)=O | C15H17NO4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-hydroxy-4-(α-hydroxy-2-tolyl)-1-methylpiperidine | OC1(CCN(CC1)C)C1=C(C=CC=C1)CO | C13H19NO2
